US04294960
Ethyl 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetate (syn isomer, 3.5 g.), 2 N aqueous solution of sodium hydroxide (11.8 ml.), methanol (11.8 ml.) and tetrahydrofuran (11.8 ml.) were treated in a similar manner to that of Example F-(4) to give 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid (syn isomer, 2.1 g.), mp. 148° C. (dec.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetate | 3.5 g | NC=1SC=C(N1)C(C(=O)OCC)=NOC1CCCCC1 | C13H19N3O3S
reactant | sodium hydroxide | 11.8 ml | [OH-].[Na+]
reactant | methanol | 11.8 ml | CO | CH4O
solvent | tetrahydrofuran | 11.8 ml | O1CCCC1 | C4H8O
product | 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetic acid | 2.1 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CCCCC1 | C11H15N3O3S
